US05593984
Preparation of 6-(2-amino-ethylthio)-pyrrolo[1,2-a]pyrazine
To the solution of 2.0 g of 6-bromopyrrolo[1,2-a]pyrazine prepared in Preparation Example 7 dissolved in 20 ml of dimethylformamide were added 1.8 g of 2-aminoethanethiol hydrochloride and 1.0 g of potassium carbonate. The reaction mixture was refluxed for 5 hours, poured into 100 ml of ice-water and then extracted with ethyl acetate (50 ml×3). The organic layer was isolated and concentrated to dryness; and the residue was chromatographed over silica gel to obtain 1.5 g of title compound.

reactant | 6-bromopyrrolo[1,2-a]pyrazine | 2.0 g | BrC1=CC=C2N1C=CN=C2 | C7H5BrN2
reactant | 2-aminoethanethiol hydrochloride | 1.8 g | Cl.NCCS
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 6-(2-amino-ethylthio)-pyrrolo[1,2-a]pyrazine | 1.5 g | NCCSC1=CC=C2N1C=CN=C2 | C9H11N3S
